* C:\users\mikail\Desktop\MY_PAPERS\snn-spice-pytorch\asc\neuron_circuit.asc
R1 v_cap 0 {R_L}
C1 v_cap 0 {C_mem} IC=0
S1 v_cap N008 Vsw 0 MYSW
R2 N008 Vin 10k
XU1 v_cap Vth Vop 0 N001 LTC6752
R3 0 N001 50
A1 N001 0 Vclk zero zero 0 spike_clk 0 DFLOP Trise=0.5n Tfall=0.5n Td=0.5n
R4 0 spike_clk 50
S2 0 v_cap N009 0 MYSW
V8 zero 0 0
V5 Vth 0 {V_th}
V3 Vclk 0 PULSE(0 1 1n 0.5n 0.5n 2.5n 5n)
V6 Vsw 0 PULSE(0 1 1n 0.5n 0.5n 71.25n 100n 1)
V1 Vop 0 2.45
A2 spike_clk 0 0 0 0 0 N010 0 BUF Trise=0.5n Tfall=0.5n Td=5n
A3 N002 0 Vclk 0 N010 N002 q0 0 DFLOP Trise=0.5n Tfall=0.5n Td=0.5n
A4 N005 0 Vclk 0 N010 0 q1 0 DFLOP Trise=0.5n Tfall=0.5n Td=0.5n
A5 N007 0 Vclk 0 N010 0 q2 0 DFLOP Trise=0.5n Tfall=0.5n Td=0.5n
A6 0 q1 0 q0 0 0 N005 0 XOR Trise=0.5n Tfall=0.5n Td=0.5n
A7 0 q2 0 N003 0 0 N007 0 XOR Trise=0.5n Tfall=0.5n Td=0.5n
A8 0 q0 0 q1 0 0 N003 0 AND Trise=0.5n Tfall=0.5n Td=0.5n
A9 N006 0 Vclk 0 N010 0 q3 0 DFLOP Trise=0.5n Tfall=0.5n Td=0.5n
A10 0 N003 0 q2 0 0 N004 0 AND Trise=0.5n Tfall=0.5n Td=0.5n
A11 0 q3 0 N004 0 0 N006 0 XOR Trise=0.5n Tfall=0.5n Td=0.5n
V4 Vin 0 {gc(0.275,tol)}
A12 N012 0 N011 0 0 0 N009 0 DFLOP
A13 N012 0 0 0 0 0 N011 0 BUF Trise=0.5n Tfall=0.5n Td=0.5n
S3 N012 spike_clk N009 0 MYSW
.tran 100n
.param R_L 100k
.param C_mem 0.2p
.model MYSW SW(Ron=1 Roff=1G Vt=0.5 Vh=-0.4)
.param V_th 0.225
* .param V_in 0.223
* .step param C_mem 1p 10p 2p
* .step param V_in 0.1 1 0.1
.function gc(nom,tol)(nom+nom*(gauss(tol/3))
.step param x 0 1 1
* .meas TRAN Vref AVG V(Vref) FROM 0.3 TO 0.35
.param tol=0.4
.lib LTC7.lib
.backanno
.end
